US07745438B2
(2S,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxypropyl]-3-methyl-2-(2,2,2-trifluoro-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester
Add acetic anhydride (0.142 mL, 1.51 mmol) to an ice cold solution of (2S,3S,5R)-5-[(1S,2S)-2-Amino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-3-methyl-2-(2,2,2-trifluoro-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester (823 mg, 1.43 mmol) in dichloromethane (9 mL). Stir for 50 minutes and add diisopropylethylamine (0.125 mL, 0.717 mmol) and stir for 2 hours. Quench with aqueous 1N hydrochloric acid, wash with saturated aqueous sodium bicarbonate, dry with magnesium sulfate and purify on silica gel with dichloromethane/ethyl acetate mixtures to give the desired compound (493 mg). MS(ESI): m/z=525 [M+H]+.

reactant | acetic anhydride | 1.51 mmol, 0.142 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2S,3S,5R)-5-[(1S,2S)-2-Amino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-3-methyl-2-(2,2,2-trifluoro-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 1.43 mmol, 823 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)O)F)N)O)OCC(F)(F)F)C | C21H30F4N2O6
reactant | diisopropylethylamine | 0.717 mmol, 0.125 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | (2S,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxypropyl]-3-methyl-2-(2,2,2-trifluoro-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 493 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)O)F)NC(C)=O)O)OCC(F)(F)F)C | C23H32F4N2O7
